Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ yo M with hyperlipidemia and a distant hx of 
Hodgkins s/p BMT who presents with chest pain. He states that 
the chest pain started after 12am on ___, was 
substernal/epigastric and sharp in nature. Started at rest, 
while he was working the night shift as a ___ ___. 
He took some tums with not effect. The pain progressively got 
worse, to a ___, associated with severe nausea and vomitting, 
NBNB, and occasional radiation to the back. He notes the pain 
did get worse with deep inspiration. He then presented to ___ 
___. Denies any HA, F/C, cough, SOB, diaphoresis, abd. pain, 
diarrhea, rash, dysuria, focal weakness or numbness. At baseline 
he is able to walk at least a mile and up and down several 
flights of stairs with no CP or SOB ever. He has had one similar 
episode approximately 6wks ago but much less severe and it 
resolved spontaneously after several hours.  
.  
At ___, he received 3 SL NTG with little effect, and then 
4mg IV morphine x2 which brought his pain down to a ___. EKG 
was unchanged and first set of CEZ was negative. WBC there as 
23K. Per report, he had a negative RUQ U/S and CT abdomen. He 
was then transferred to ___ at his request.  
.  
In the ___ ___, initial VS were 98.1, 104, 128/85, 96% RA. He 
had a negative CT Chest and head without contrast. He received 
2mg IV morphine. EKG remained unchanged and ___ set of CEZ was 
negative.
 
Past Medical History:
-Stage IIIB Hodgkin's disease dx in ___ s/p ABVD s/p BMT in 
___  
-Multiple episodes of GVHD but now resolved  
-CKD ___ GVHD B/L Cr. ~2.2  
-bilateral hip replacement in ___ and again in ___  
-___ syndrome in ___, resolved with course of 
Dapsone  
-Basal cell CA  
-Hyperlipidemia  
-___
 
Social History:
___
Family History:
His father had prostate cancer. Grandmother had breast cancer. 
Mother died of cervical cancer and aunt died of lymphoma. No 
heart disease in the family.
 
Physical Exam:
VS: Temp 100.3 F, BP 124/82, HR 98, RR 18, 97% RA

GEN: Middle-aged man in NAD, awake, alert.  
HEENT: EOMI, PERRL, sclera anicteric, conjunctivae clear, OP 
clear and without lesion, dry MM  
NECK: Supple, no JVD  
CV: Reg rate, normal S1, S2. ___ SEM  
CHEST: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM  
EXT: No c/c/e  
SKIN: No rash 
 
Pertinent Results:
On Admission:
___ 06:20PM   WBC-17.0*# RBC-3.79* HGB-11.7* HCT-34.3* 
MCV-91 MCH-30.8 MCHC-34.1 RDW-12.7
___ 06:20PM   NEUTS-81.6* LYMPHS-14.2* MONOS-3.5 EOS-0.4 
BASOS-0.2
___ 06:20PM   PLT COUNT-495*
___ 06:20PM   GLUCOSE-90 UREA N-31* CREAT-2.2* SODIUM-139 
POTASSIUM-4.8 CHLORIDE-103 TOTAL CO2-30 ANION GAP-11
___ 06:20PM   ALT(SGPT)-22 AST(SGOT)-23 LD(LDH)-150 
CK(CPK)-65 ALK PHOS-96 AMYLASE-42 TOT BILI-0.4
___ 06:20PM   LIPASE-23
___ 06:20PM   D-DIMER-669*
___ 06:20PM   ALBUMIN-4.3
___ 06:20PM   CK-MB-NotDone
___ 06:20PM   cTropnT-<0.01

CXR:
As best can be determined, compared to the prior torso CT, again 

relatively stable is the extensive right apical pleural 
thickening extending along the lateral margin of the right upper 
chest. The volume loss is qualitatively similar. There is a 
suture line projecting over the dome of the left hemidiaphragm. 
The left and right lungs respectively are grossly clear. The 
mediastinum is unremarkable. There is rightward deviation of the 
trachea at the level of the aortic arch. The cardiac silhouette 
is within normal limits for size. There is no effusion or 
pneumothorax. The visualized osseous structures are 
unremarkable.
IMPRESSION: As best can be determined, the volume loss of the 
right lung is relatively stable. There is no definite 
superimposed acute pulmonary process. 

CT chest:
1. Essentially unchanged CT of the chest demonstrating right 
apical fibrosis and traction bronchiectasis and stable 
appearance of pulmonary nodular opacities. 
2. A hyperdense cyst in the left kidney is incompletely 
characterized; if clinically indicated, consider abdominal CT or 
ultrasound for further 
characterization.

CT Head:
1. Intracranially, there are no findings to suggest an 
underlying mass lesion. If suspicion remains high, consider 
contrast-enhanced MRI for the 
most sensitive evaluation.  
2. The osseous lesion in the sphenoid bone as detailed above is 
nonaggressive in nature and highly atypical for lymphoma. It is 
likely a bone island or other benign entity. 

V/Q Scan:
Low likelihood ratio for recent pulmonary embolism.

 
Brief Hospital Course:
___ yo M with hyperlipidemia and distant hx of hodgkins presents 
with chest pain, fever, and leukocytosis.  
.  
# Chest pain: Cardiac causes were unlikely in the setting of 
minimal risk factors, poor response to NTG, negative CE and 
unchanged EKG. There were very mild EKG abnormalities showing PR 
depression (minimal) in lateral and limb leads originally 
concerning of pericarditis in the setting of viral infection 2 
weeks earlier and with the history of chest radiation. However, 
patient received morphine in the ER and chest pain fully 
resolved, which was thought to be to rapid to be compatible with 
pericarditis and in an asymptomatic patient would not 
necessarily require treatment. CT scan ruled out pneumonia and 
V/Q scan was low-probability for PE. Patient was discharged 
asymptomatic with PCP follow up after being given alarm signs 
and symptoms.
.
# Fever/leukocytosis: Originally with nausea and vomit 
associated with chest pain, but upon admission to the medical 
floor he was asymptomatic. Chest CT was negative for source of 
infection as well as a UA. Patient had negative blood cultures 
upon discharge, that will need follow up of final report. CT 
scan of the abdomen at ___ did not find any abdominal source 
of infection. LFTs were normal and patient did not have diarrhea 
or skin manifestations of GVHD. Differential was normal and pt 
was asymptomatic making recurrence of ca unlikely. He was 
discharge with close follow up with his PCP and CBC scheduled 
for next week. Patient was given printed order for laboratories 
and was asked to have them done at ___.
.
# SBO: Final read of abdominal CT scan at ___ reported 
partial SBO. However, patient was asymptomatic moving bowels, 
passing gas and tolerating diet. He was given warning signs and 
symptoms and was asked to follow with his PCP. 
.  
# Hyperlipidemia: Con't simvastatin  
.  
# CKD: Stable with creatinine of 1.9 (baseline) with eGFR of 40 
ml/min upon discharge. Medications were renaly dosed during 
hospitalization. 
.  
# FEN: IVF, Cardiac diet  
.  
# Access: PIV  
.  
# PPx: heparin SC  
.  
# Code: FULL  
.  
# Dispo: Home with PCP follow up.

 
Medications on Admission:
Simvastatin 40mg PO daily  
Calc/Vit.D  
MVI
 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Calcium 500 with Vitamin D 500 (1,250)-200 mg-unit Tablet 
Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atypical chest pain
.
Secondary Diagnosis:
History of Hodgkin's disease s/p chemotherapy, radiation and 
chemotherapy.
Multiple episodes of GVHD but now resolved
Chronic kidney disease
Dyslipidemia
 
Discharge Condition:
Stable, breathing comfortably in room air, pain free.

 
Discharge Instructions:
You were seen at ___ for chest pain/pressure. Your physical 
exam was normal, your EKG had minor changes not concerning for 
heart attack and your cardiac enzymes were negative. You had a 
CT scan of your chest that was negative for infection and a scan 
that puts you in the low probability group for a blood clot in 
your lungs. Your white blood cells were high during the 
hospitalization, so we looked for other infections including 
your blood and urine, but we did not find any source. You were 
asymptomatic and pain free during the hospitalization.
.
You had a rapid heart rhytm called supra ventricular tachycardia 
that resolved spontaneously. You did not have further episodes, 
and there is a chance that it was due to a precipitant 
associated with your pain and your increased white blood cells. 
However, it needs follow up with your PCP.
.
Your medications were left unchanged.
.
You will need to check your temperature on daily basis for the 
next 2 weeks.
.
If chest pain recurs, you have shortness of breath, cough, 
palpitations, fever >100.4, abdominal pain, or anything else 
that concerns you please come back to the ER.
 
Followup Instructions:
___